US07220856B2
Preparation of (3S)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic acid, 2,2,2-trifluoroethyl Ester
As described for example 213, (3R)-3-[[(1,1-dimethylethoxy)carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic acid, 2,2,2-trifluoroethyl ester, TFA, triphosgene, NaHCO3 (sat.), and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a white solid. LC-MS: 543 (M++1). 1H NMR (DMSO+TFA): δ 1.32–1.45 (m, 1H), 1.56˜1.90 (m, 5H), 3.26 (m, 4H), 3.54–3.66 (m, 5H), 4.15 (m, 1H), 4.68 (br.d, 1H), 4.83 (m, 2H), 6.32 (s, 1H), 7.42 (dd, 1H), 7.60 (d, 1H), 7.90 (d, 1H).

reactant | (3R)-3-[[(1,1-dimethylethoxy)carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic acid, 2,2,2-trifluoroethyl ester | CC(C)(OC(=O)N[C@H]1C(N(CCCC1)C(=O)OCC(F)(F)F)=O)C | C14H21F3N2O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | (3S)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic acid, 2,2,2-trifluoroethyl Ester | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)C(=O)OCC(F)(F)F)=O)Cl | C23H26ClF3N6O4
